US04923502
Preparation of 2,2-dimethyl-3-cyclobutyl propan-3-one
Cuprous iodide (1.0 gm) was added to a solution of cyclobutane carboxylic acid chloride (15.0 gms) in dry ether (40 mls) under an argon atmosphere. The suspension was stirred and cooled to -70° C. A solution of t-butyl magnesium chloride in ether (61.4 mls of 2M solution) was then added dropwise, whilst the temperature was maintained below -70° C. After the addition was complete, stirring was continued at -70° C. for 1 hour and then for several hours whilst the temperature was allowed to reach 20° C. Water was carefully added to the mixture. The ether layer was separated, combined with an extract of the aqueous phase and washed with dilute caustic soda. Drying and evaporation gave 4.9 gms of yellow oily product. Gas chromatography showed 80% of a major component. The product was used without further purification.

reactant | cyclobutane carboxylic acid chloride | 15.0 gms | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | t-butyl magnesium chloride | C(C)(C)(C)[Mg]Cl
reactant | Water | O | H2O
solvent | ether | 40 mls | CCOCC | C4H10O
solvent | ether | 2M, 61.4 mls | CCOCC | C4H10O
product | 2,2-dimethyl-3-cyclobutyl propan-3-one | 4.9 gms | CC(C)(C(=O)C1CCC1)C | C9H16O
